US09085555B2
B. (3-Carbamoyl-5-hydroxy-indol-1-yl)-acetic acid tert-butyl ester
(5-Benzyloxy-3-carbamoyl-indol-1-yl)-acetic acid tert-butyl ester (250 mg, 0.657 mmol) was suspended in THF (13 mL). Air was removed from the flask and replaced with nitrogen three times. Pd/C 10% (25 mg) was added to the solution which was again degassed, placed under a hydrogen atmosphere and stirred at RT overnight. The catalyst was removed through a 0.45 microns filter and concentrated in vacuo. The crude material was purified by preparative HPLC (SunFire C18-ODB, 5 μm, 30×100 mm, eluent: 5-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) to give after lyophilization of the purified fractions the desired compound as a white solid. MS: 291 [M+H]+, 313 [M+Na]+, 581 [2M+H]+, 603 [2M+Na]+; tR (HPLC conditions c): 3.75 min.

reactant | (5-Benzyloxy-3-carbamoyl-indol-1-yl)-acetic acid tert-butyl ester | 0.657 mmol, 250 mg | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C(N)=O)=O | C22H24N2O4
solvent | THF | 13 mL | C1CCOC1 | C4H8O
product | (3-Carbamoyl-5-hydroxy-indol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C=C(C2=CC(=CC=C12)O)C(N)=O)=O | C15H18N2O4
